US04933355
5-{(2E)-3-[2-(3-p-bromophenylureido)thiazol-4-yl)-allylidene}rhodanine-3-acetic acid hemihydrate
Following a procedure similar to that described in Example 1, the desired compound was prepared using 0.4 g of (E)-3-[2-(3-p-bromophenylureido)thiazol-4-yl]acrylaldehyde, 0.2 g of rhodanine-3-acetic acid, 0.15 g of ammonium chloride, 0.15 ml of 28% v/v aqueous ammonia and 10 ml of ethanol. The resulting product was a brownish-orange powder having the following physical properties.

reactant | (E)-3-[2-(3-p-bromophenylureido)thiazol-4-yl]acrylaldehyde | 0.4 g | BrC1=CC=C(C=C1)NC(NC=1SC=C(N1)/C=C/C=O)=O | C13H10BrN3O2S
reactant | rhodanine-3-acetic acid | 0.2 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 0.15 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-{(2E)-3-[2-(3-p-bromophenylureido)thiazol-4-yl)-allylidene}rhodanine-3-acetic acid hemihydrate | O.BrC1=CC=C(C=C1)NC(NC=1SC=C(N1)/C=C/C=C1C(N(C(S1)=S)CC(=O)O)=O)=O.BrC1=CC=C(C=C1)NC(NC=1SC=C(N1)/C=C/C=C1C(N(C(S1)=S)CC(=O)O)=O)=O | InChI=1S/2C18H13BrN4O4S3.H2O/c2*19-10-4-6-11(7-5-10)20-16(27)22-17-21-12(9-29-17)2-1-3-13-15(26)23(8-14(24)25)18(28)30-13;/h2*1-7,9H,8H2,(H,24,25)(H2,20,21,22,27);1H2/b2*2-1+,13-3?;
